US08669234B2
2-Methoxycarbonylamino-4-(2,2,2-trifluoro-ethoxy)-butyric acid methyl ester:
This compound was made by the same procedure as 5,5,5-Trifluoro-2-methoxycarbonylamino-pentanoic acid methyl ester, using 2-Isopropyl-3,6-dimethoxy-5-[2-(2,2,2-trifluoro-ethoxy)-ethyl]-2,5-dihydropyrazine as the starting material. 1H-NMR: 400 MHz, (CDCl3) δ: 5.51-5.43 (br, 1H), 4.51-4.43 (m, 1H), 3.83-3.63 (m, 10H), 2.22-2.13 (m, 1H), 2.13-2.03 (m, 1H) ppm.

reactant | 5,5,5-Trifluoro-2-methoxycarbonylamino-pentanoic acid methyl ester | COC(C(CCC(F)(F)F)NC(=O)OC)=O | C8H12F3NO4
reactant | 2-Isopropyl-3,6-dimethoxy-5-[2-(2,2,2-trifluoro-ethoxy)-ethyl]-2,5-dihydropyrazine | C(C)(C)C1N=C(C(N=C1OC)CCOCC(F)(F)F)OC | C13H21F3N2O3
product | 2-Methoxycarbonylamino-4-(2,2,2-trifluoro-ethoxy)-butyric acid methyl ester | COC(C(CCOCC(F)(F)F)NC(=O)OC)=O | C9H14F3NO5
